US06972287B1
Preparation of (trans)-3-(3,4-Dichlorophenyl)-2-propenal
A mixture of 3,4-dichlorobenzaldehyde (140.0 g, 0.8 mol) and acetaldehyde (300 mL) was cooled to 5° C. Potassium hydroxide (5.1 g, 0.091 mol) was dissolved in hot MeOH (40 mL), and the resulting solution was added to the above cooled mixture while maintaining the internal temperature at 25° C. to 30° C. The mixture was allowed to stir in ice-H2O bath for 40 minutes and then treated with acetic anhydride (400 mL). After the addition, the mixture was heated to 100° C. with string for 30 minutes and then cooled to 30° C. To this mixture, 12N HCl/H2O (102 mL/1.2 L) was added, and the resulting mixture was heated to reflux for 30 minutes and then cooled to room temperature. This heterogeneous mixture was filtered and washed with H2O to afford a brown solid. The crude product was dissolved in EtOAc and washed with H2O, dried Na2SO4), and concentrated to dryness. Recrystallization from hexane/EtOAc (9:1) yielded 76.5 g (0.38 mol, 48%) of the title compound. mp: 91-93° C.

reactant | 3,4-dichlorobenzaldehyde | 0.8 mol, 140.0 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | acetaldehyde | 300 mL | C(C)=O | C2H4O
reactant | Potassium hydroxide | 0.091 mol, 5.1 g | [OH-].[K+]
reactant | acetic anhydride | 400 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl H2O | 12N, 102 mL | Cl.O
solvent | MeOH | 40 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (trans)-3-(3,4-Dichlorophenyl)-2-propenal | 0.38 mol, 76.5 g, 48% | ClC=1C=C(C=CC1Cl)/C=C/C=O | C9H6Cl2O
